Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old gentleman incarcerated since ___, past medical 
history of ESRD secondary to PKD and history of multiple 
hospital admissions in past month for recurrent fevers and 
rigors often HD-associated with previous positive workup for E. 
coli bacteremia likely secondary to tunneled HD line, now 
presents with non-HD associated fever to 103 with chills/shakes 
for several hours the day prior to admission. Previous 
significant history includes multiple PD-associated infections 
from ___ to ___, including peritonitis, lumbar discitis/ 
osteomyelitis/ epidural abscess and endocarditis secondary to 
enterococcus bacteremia. Otherwise patient has been in normal 
health until 1 month ago:
___: symptoms warmth and chills, 99.4F, resolved with 2 Advil
___: Repeat symptoms, 99.0F, resolved with tylenol
___: Presented to ___ with fevers, 
chills, non-bloody non-bilious vomiting, occasional pain around 
Port-A-Cath site but no redness, swelling or drainage. Treated 
with vanc, zosyn, tylenol and IVF. ID consult thought bacteremia 
secondary to to HD line. Also noted left knee and ankle was 
warm, swollen, and extremely tender to touch on exam but without 
erythema. Stopped antibiotics when cultures returned neg and 
fevers abated. Returned to prison.
.
___: 100.0F, given vanc and gentamycin possibly by prison 
physician, resolved
___: Presented to ___ with fever 102.0F. Resolved without 
intervention, and d/c to prison.
___: Presented to ___ with fever 105.0F during dialysis. 
Started on Vanc and removed HD line. Blood cultures grew E. coli 
resistant to ampicillin, cefazolin, ciprofloxacin and 
levofloxacin, otherwise sensitive.
___: Transferred from ___ to ___. Given Zosyn. Mild 
effusion palpable on left knee. Switch Vanc/zosyn to ceftazidime 
once blood culture results returned.
___: HD Line replaced by ___. Discharged on ceftazidime x10 
more days. WBC 3.2.
.
___: Neg Blood cultures from ___.
___: Neg Blood cultures from ___.
___: Neg Blood cultures from ___.
.
___ to ___: 99.8F and chills at HD. Given Vanc and zosyn 
then sent to ___ ED where T 100.3F. New onset bilateral hip 
pain. WBC 8.4 (compared to 3.2 nine days prior), CRP 17.7, ESR 
50. Neg pelvic Xray but CXR notable to 8 mm rim calcified 
nodular opacity within left lung base. CT T/L spine and pelvis 
neg for acute osteomyelitis but showed evidence of changes 
consistent with chronic osteomyelitis. TTE neg for valvular 
vegetation. Ortho consult considered sacroiliitis. ID followed 
as well. Pt given Vanc ___ and Zosyn ___. Pt 
remained afebrile through admission. Multiple serial Blood 
cultures returned neg so line was left in place and pt d/c to 
prison.
.
___: 99.0F at dialysis without chills or rigors.
___: 103.0F measured by patient with chills and rigors 
starting at 12pm and lasting for several hours. Notably not 
during dialysis; patient lying down at time with no other 
activity. Ceftaz given in ED where T 102.1F. 
 
Past Medical History:
ESRD on HD MWF through right Port-A-Cath, on dialysis since 
___, PD ___ complicated by recurrent peritonitis, failed 
LUE AV fistula ___
Polycystic kidney disease s/p right nephrectomy ___
Hypertension ___ years
Hepatitis C dx ___ s/p failed interferon treatment ___
L5-S1 discitis, osteomyelitis, epidural abscess ___ 
enterococcus bacteremia, treated with 10 days of 
ampicillin/gentamycin
Endocarditis (___)
Hyperparathyroidism, s/p subtotal parathyroidectomy ___, 
revision ___ s/p thyroid lobectomy
Gout (questionable diagnosis but on treatment)
Carotid stenosis
Restless leg syndrome
Depression
Chronic pain syndrome
Neurogenic bladder
Diverticulosis
Trigger finger
 
Social History:
___
Family History:
Mother - diagnosed with DM in her ___
Father - died of drugs and alcohol and pancreatic cancer at ___
3 of 4 or ___ healthy brother
2 children (estranged) - ___nd health ___ yo
 
Physical Exam:
Admission Exam:
VS: 100.0 126/62 77 18 99%RA  
GENERAL: Well-appearing man in NAD, comfortable, appropriate.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.  
HEART: RRR, ___ systolic murmur (previously documented), nl 
S1-S2.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding, 
multiple scars  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses. L arm 2 old 
fistula sites.  
SKIN: No rashes or lesions. R chest tunnelled line, no 
erythema/no pain/tenderness  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait.  
.
Discharge Exam:
VS: 97.6F (Tmax 98.6F), 150/72 (117-150/58-72), 58, 18, 98%/RA
GENERAL: Well-appearing man in NAD, comfortable, appropriate, 
looks younger than stated age
HEENT: NCAT, PERRLA, arcus senilis, sclerae anicteric, MMM, OP 
clear
HEART: RRR, ___ systolic murmur loudest over LLSB, nl S1-S2
LUNGS: CTAB, no r/r/w, good air movement, resp unlabored
ABDOMEN: +BS, soft/NT/ND, tympanic to percussion throughout, no 
masses or HSM, no rebound/guarding, multiple scars
BACK: extremely tender to light touch over lumbar sacral spinous 
processes and paraspinal areas
EXTREMITIES: WWP, no c/c/e, 2+ DP pulses, L arm 2 old fistula 
sites, L knee and ankle tender to light touch, able to flex 
actively
SKIN: R chest tunnelled line, no erythema, pain or tenderness
NEURO: Awake, AOx3
 
Pertinent Results:
Labs at Admission:
___ 06:45PM BLOOD WBC-9.6# RBC-3.11* Hgb-10.2* Hct-28.8* 
MCV-93 MCH-32.8* MCHC-35.3* RDW-15.7* Plt ___
___ 06:45PM BLOOD Neuts-96* Bands-0 Lymphs-2* Monos-2 Eos-0 
Baso-0
___ 06:45PM BLOOD Glucose-86 UreaN-32* Creat-11.6* Na-135 
K-4.8 Cl-98 HCO3-23 AnGap-19
___ 06:45PM BLOOD Albumin-4.1 Iron-24*
___ 07:40AM BLOOD Calcium-10.2 Phos-6.5* Mg-2.4
___ 06:45PM BLOOD ALT-15 AST-18 LD(LDH)-188 AlkPhos-83 
Amylase-90 TotBili-0.4
___ 06:45PM BLOOD calTIBC-276 Ferritn-133 TRF-212
___ 06:45PM BLOOD CRP-7.7*
___ 07:07PM BLOOD Lactate-1.2
___ 6:45 pm BLOOD CULTURE      #1. 

   Blood Culture, Routine (Preliminary): 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Piperacillin/Tazobactam sensitivity testing performed 
by ___
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     2 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
.
.
.
Labs at Discharge:
___ 07:00AM BLOOD WBC-3.8* RBC-2.84* Hgb-9.3* Hct-26.9* 
MCV-95 MCH-32.6* MCHC-34.4 RDW-15.2 Plt ___
___ 07:00AM BLOOD Glucose-101* UreaN-29* Creat-11.3*# 
Na-135 K-4.8 Cl-95* HCO3-31 AnGap-14
___ 07:00AM BLOOD Calcium-10.7* Phos-6.5*# Mg-2.7*
___ 6:55 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 

___ 7:40 am BLOOD CULTURE      #1. 

   Blood Culture, Routine (Pending): 
___ 9:35 pm BLOOD CULTURE      R. 

   Blood Culture, Routine (Pending): 

___ 6:55 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 9:50 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
.
.
.
Chest X-Ray ___:
PA AND LATERAL VIEWS OF THE CHEST: Right-sided dual-lumen 
dialysis catheter tip terminates in the proximal right atrium, 
unchanged. The cardiac, mediastinal and hilar contours are 
within normal limits. The pulmonary vascularity is normal. 8-mm 
rim calcified nodular opacity within the left lung base appears 
unchanged. Lungs are clear. No pleural effusion or pneumothorax 
is seen. There are no acute osseous abnormalities. Multiple 
clips are seen in the right upper quadrant. Calcifications are 
noted in the left upper quadrant of the abdomen, compatible with 
calcifications seen within innumerable left renal cysts on CT. 
IMPRESSION: No acute cardiopulmonary abnormality, and no 
interval change from prior. 
.
MRI Lumbar spine without contrast ___:
Endplate erosion with loss of disc height at L5-S1 levels, with 
mild increased T2 signal, likely representing chronic discitis 
osteomyelitis. Additionally there is a disc bulge and bilateral 
facet arthrosis at this level causing moderate bilateral neural 
foramina narrowing and compression of the L5 nerve roots and 
abutting the S1 nerve roots. 
 
Brief Hospital Course:
___ year old incarcerated male with ESRD secondary to Polycystic 
Kidney Disease on HemoDialysis with recent E. coli bacteremia 
diagnosed by Blood culture from outside hospital on ___ 
believed secondary to HD line infection, presented this time 
with fevers, chills/rigors, found to have 1 out of 4 bottle E 
coli bacteremia. He was stable and discharged on Bactrim for 1 
week. 
.
# Fevers: Patient admitted to ___ for the third time in the 
past month with fevers and rigors. Patient last had 
blood-culture proven E. coli bacteremia in ___. The 
source of infection is most likely the tunneled right-sided HD 
line, but blood cultures during this admission only grew E. coli 
in one bottle, so contamination of the sample by multiple 
hospital admission acquired skin flora cannot be ruled out and 
bacteremia cannot be ruled in. Patient's history is also 
significant for chronic osteomyelitis of his lumbar spine, but 
no acute infection was evident on MRI. Patient was initially 
treated wtih ceftazidime in the ED, broaded to 
vancomycin/cefepime, and after the culture returned GNR, 
narrowed to cefepime only. After speciation and sensitivity 
returned, and given question of bacteremia, patient was treated 
conservatively with Bactim DS once a day at evening for a total 
of 7 days without need for a line change at this time.
.  
# ESRD: He continued to receive MWF dialysis in-house. Renal 
transplant service and Transplant surgery were aware of pt on 
previous admission and were informed of current admission. 
Patient continued his home sevelamer, doxercalciferol, renal 
caps, and renal diet in-house.  
.  
# Chronic joint pains: Patient has chronic pain of back, knees 
and ankles which he attributes to gout. Previous ortho consult 
felt his back pain may be secondary to sacroiliitis, pelvic xray 
did not show any fracture, dislocation, or acute osteomyelitis, 
and CT spine did not show signs concerning for osteomyelitis 
either. Diagnosis of gout is questionable given chronicity of 
pains, location, and pain without signs consistent with acute 
gout flares. Rheumatology at the ___ has seen the patient and 
doubts gout. Have been unable to attain original documentation 
of how the gout was diagnosed, but pt was most recently treated 
for a flare in ___ with prednisone, ___, and 
allopurinol. MRI of lumbar spine was done this admission and 
showed signs of chronic osteomyelitis and bilateral neural 
foramina narrowing and compression of the L5 nerve roots and 
abutting the S1 nerve roots, likely the source of the pain. No 
evidence of acute osteomyelitis was seen. Patient's pain was 
controlled with his home regimen of MS contin and allopurinol.
.
# Hypertension: Controlled in house with home dose of lisinopril 
and metoprolol.
.
Transitional Issues:
1. Please follow up with pending blood cultures. 
2. Replacement of HD catheter once antibiotic course is 
complete.
3. Completion of bactrim course
 
Medications on Admission:
amitriptyline 25 mg PO BID
lisinopril 10 mg PO DAILY
MS contin 30 mg PO Q12H
ropinirole 2.5 mg PO QHS
sevelamer carbonate 2400 mg PO TID
metoprolol 100 mg PO BID
allopurinol ___ mg PO MWF
doxercalciferol 55 mcg PO MWF
 
Discharge Medications:
1. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).  
5. ropinirole 1 mg Tablet Sig: 2.5 Tablets PO QPM (once a day 
(in the evening)).  
6. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
7. metoprolol tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
8. allopurinol ___ mg Tablet Sig: One (1) Tablet PO QMWF (): MWF 
after dialysis.  
9. doxercalciferol 2.5 mcg Capsule Sig: Two (2) Capsule PO QMWF. 
 
10. diphenhydramine HCl 50 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for allergy symptoms.  
11. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain: please take after meals.  
12. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO QPM (once a day (in the evening)) for 7 days.
Disp:*7 Tablet(s)* Refills:*0*
13. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).
Disp:*30 Cap(s)* Refills:*2*

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary Diagnosis:
E.coli bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
.
It was great pleasure taking care of you as your doctor.
.
You were admitted to ___ because of fever. You initially 
received IV antibiotics, which were later switched to an oral 
antibiotic. You had an imaging of your back which was suggestive 
of chronic bone infection.
.
We made the following changes to your medication.
Please START Bactrim Double Strength 1 tab every evening for 
another 7 days.
Please START Nephrocaps 1 tablet daily
.
Please continue the rest of your medications the way you were 
taking them at home prior to this admission.
.
Please follow with your appointments as illustrated below.
 
Followup Instructions:
___